US06596719B1
According to the procedure described in Example 4a) 129 mg 5-isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with thiophene-2-sulfonylchloride to give 105 mg 5-isopropyl-N-[6-(2-(2-thiophenesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=5.00 min, [M+1]+=684.60, [M−1]−=682.70.

reactant | 5-isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 129 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=NC=CC=N1 | C25H27N7O5S
reactant | thiophene-2-sulfonylchloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 5-isopropyl-N-[6-(2-(2-thiophenesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 105 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C=1SC=CC1)C1=NC=CC=N1 | C29H29N7O7S3
